US08383827B2
Step 2: Synthesis of methyl 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate
To a solution of methyl 2-(5-bromopyridin-3-yl)acetate (4.8 g, 20.86 mmol) in DMF (100 mL) was added 60% NaH in mineral oil (1.1 g, 45.9 mmol), and the mixture was stirred at 0° C. for 15 min. A solution of 1,2-dibromoethane (3.92 g, 20.86 mmol) in DMF (20 mL) was added and the mixture was stirred at room temperature for 1 h. Two other portions of 60% NaH in mineral oil (200 and 450 mg) were added sequentially, until conversion was complete. The mixture was poured into EtOAc (1 L) and washed with water (60 mL), dried over Na2SO4 and concentrated in vacuo to give an oil which was used in next step without further purification.

reactant | methyl 2-(5-bromopyridin-3-yl)acetate | 20.86 mmol, 4.8 g | BrC=1C=C(C=NC1)CC(=O)OC | C8H8BrNO2
reactant | NaH | [H-].[Na+]
reactant | 1,2-dibromoethane | 20.86 mmol, 3.92 g | BrCCBr | C2H4Br2
reactant | EtOAc | 1 L | CCOC(=O)C | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate | BrC=1C=C(C=NC1)C1(CC1)C(=O)OC | C10H10BrNO2
